US06143764
6,7-Dimethoxy-4-(3-fluorophenoxy)quinoline [4]
4-Chloro-6,7-dimethoxyquinoline (100 mg) and commercially available 3-fluorophenol (0.20 ml) were mixed and stirred at 180° C. for 30 minutes. The reaction mixture was neutralized with saturated aqueous sodium hydrogen carbonate and then partitioned between water and ethyl acetate, and the ethyl acetate layer was washed with brine and then dried with anhydrous sodium sulfate. After removing the solvent by reduced-pressure distillation, the resulting residue was purified by column chromatography on silica gel eluting with hexane/ethyl acetate and then with chloroform to obtain 125 mg of the title compound (yield: 94%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 100 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 3-fluorophenol | 0.20 ml | FC=1C=C(C=CC1)O | C6H5FO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6,7-Dimethoxy-4-(3-fluorophenoxy)quinoline | 125 mg, yield: 94% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=CC=C1)F | C17H14FNO3
